* source TEST
V_V1         VCC 0 5Vdc
V_V2         VSS 0 -5Vdc
V_V3         N54074 0 0.4Vdc
V_V4         N28616 0 4.5Vdc
C_C1         0 N28732  1n  TC=0,0 
R_R2         N32314 N29345  700 TC=0,0 
X_U1         N28732 N28616 N30371 VCC VCC VCC 0 N30724 N69582 TLV3605
X_Q2         N32846 N30724 N54074 BFG425W/PLP
R_R4         N32846 VCC  1k TC=0,0 
X_D1         N32314 N28732 BAT14-03w/INF
X_Q3         N29345 N30724 N54074 BFG425W/PLP
V_V10         N40704 0  
+PULSE 0 3.3 50n 1n 1n 1.5u 2u
X_U2         N40704 0 N40798 N40802 N40929 N69343 UCCX7324
C_C2         0 N40929  100n  TC=0,0 
C_C3         0 N40929  1u  TC=0,0 
I_I3         VCC N28732 DC 1uAdc  
X_U3         VCC N64950 0 N65048 N65052 REF5045
C_C4         0 N65048  1u  TC=0,0 
V_V12         VDD 0 12Vdc
V_V13         VEE 0 -12Vdc
C_C5         0 VCC  1u  TC=0,0 
C_C6         0 N65052  22u  TC=0,0 
R_R5         N29345 N69343  20 TC=0,0 
R_R6         N40929 VDD  1k TC=0,0 
R_R7         0 N40929  1k TC=0,0 
V_V14         N40798 0  
+PULSE 1.023 1.375 100n 200p 200p 20n 200n
